*  Generated for: PrimeSim
*  Design library name: cp_lib1
*  Design cell name: cp_nand
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Mon Feb 28 13:33:14 2022

.global gnd!
********************************************************************************
* Library          : cp_lib1
* Cell             : cp_nand
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xm1 net71 d_in2 gnd! gnd! n105 w=0.14u l=0.05u nf=1 m=1
xm0 net27 d_in1 net71 gnd! n105 w=0.14u l=0.05u nf=1 m=1
xm6 net27 d_in2 net63 net63 p105 w=0.35u l=0.05u nf=1 m=1
xm17 net27 d_in1 net63 net63 p105 w=0.35u l=0.05u nf=1 m=1
v21 d_in1 gnd! dc=0 pulse ( 0 1.05 2u 0.1u 0.1u 5u 10u )
v23 d_in2 gnd! dc=0 pulse ( 0 1.05 5u 0.1u 0.1u 5u 10u )
v18 net63 gnd! dc=1.8








.tran '1u' '20u' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(d_in1) v(d_in2) v(net27)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end
